US07560558B2
Compound 91: Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzoate
4-Chloro-6,7-dimethoxyquinoline (514 mg), ethyl 5-methoxysalicylic acid (1.35 g), and 4-dimethylaminopyridine (843 mg) were suspended in o-dichlorobenzene (8 ml), and the suspension was stirred at 180° C. for 4 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (152 mg, yield 170%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 514 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | ethyl 5-methoxysalicylic acid | 1.35 g | C(C)OC=1C(C(=O)O)=CC(=CC1)OC | C10H12O4
reactant | water | O | H2O
reactant | o-dichlorobenzene | 8 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | 4-dimethylaminopyridine | 843 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzoate | 152 mg, yield 170% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=O)OCC)C=C(C=C1)OC | C21H21NO6
